US07923450B2
a) 2-(4-Methyl-imidazol-1-yl)-5-nitro-benzonitrile
A suspension of 3-cyano-4-fluoronitrobenzene (831 mg, 5 mmol), of 4-methylimidazol (821 mg, 10 mmol) and of potassium carbonate (1382 mg, 10 mmol) in acetonitrile (10 mL) was stirred over the weekend at room temperature. The solvent was evaporated and the residue was partitioned between ethyl acetate and 1N aqueous NaOH solution. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure. The crude product was crystallized from ethanol/water to yield the title compound (650 mg, 57%) as an off-white solid. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=8.95 (s, 1H), 8.62 (d, 1H), 8.16 (s, 1H), 7.93 (d, 1H), 7.49 (s, 1H), 2.21 (s, 3H).

reactant | 3-cyano-4-fluoronitrobenzene | 5 mmol, 831 mg | C(#N)C=1C=C(C=CC1F)[N+](=O)[O-] | C7H3FN2O2
reactant | 4-methylimidazol | 10 mmol, 821 mg | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | 10 mmol, 1382 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(4-Methyl-imidazol-1-yl)-5-nitro-benzonitrile | 650 mg, 57% | CC=1N=CN(C1)C1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C11H8N4O2
